US07705053B2
Production of 3-[(E)-2-(4-chlorophenyl)-vinyl]-N-ethyl-4-methoxy-benzamide (Compound 2-2-9)
The captioned compound was synthesized from 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid and ethylamine hydrochloride in accordance with the same procedure as in the manufacturing method described in step C of Example 1-2-3.

reactant | 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)O)C=CC1OC | C16H13ClO3
reactant | ethylamine hydrochloride | Cl.C(C)N
product | 3-[(E)-2-(4-chlorophenyl)-vinyl]-N-ethyl-4-methoxy-benzamide | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)NCC)C=CC1OC | C18H18ClNO2
